US06107458
A mixture of Methyl 3,4-diaminobenzoate (1.84 g) and 4-hexyloxy benzaldehyde (2.30 g) in nitrobenzene (40 ml) was stirred for 48 hours at 145° C. After cooling, the mixture was evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel eluted with (n-hexane:ethyl acetate=2:1) gave 5-Methoxycarbonyl-2-(4-hexyloxyphenyl)benzimidazole (1.19 g).

reactant | Methyl 3,4-diaminobenzoate | 1.84 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | 4-hexyloxy benzaldehyde | 2.30 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
solvent | nitrobenzene | 40 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-Methoxycarbonyl-2-(4-hexyloxyphenyl)benzimidazole | 1.19 g | COC(=O)C1=CC2=C(N=C(N2)C2=CC=C(C=C2)OCCCCCC)C=C1 | C21H24N2O3
